US07666879B2
C. 4-(7-Thiazol-2-yl-imidazo[1,2-a]pyridin-3-yl)phenylamine
Take up 3-bromo-7-thiazol-2-yl-imidazo[1,2-a]pyridine (1.07 g, 3.82 mmol) and 4-aminophenylboronic acid hydrochloride (793 mg, 4.58 mmol, 1.2 eq) in 15 mL of dioxane and 7 mL of 2 N aqueous sodium carbonate, then deoxygenate with vacuum/nitrogen bubbling as described above. Add tetrakis (triphenylphosphine) palladium (0) (221 mg, 0.19 1 mmol, 0.05 eq), fit the reaction flask with a reflux condenser and heat the mixture to 95° C. with stirring under nitrogen for approximately 16 hours. Cool the dark brown reaction mixture, dilute with ethyl acetate (˜40 mL) and partition the layers in a separatory funnel. Dry the organic layer over solid magnesium sulfate, filter, then apply to a 10 g SCX Mega Bond-Elut™ cartridge (Varian) prewashed with 100 mL 1:1 CH2Cl2:MeOH. After loading, wash the cartridge with another 200-250 mL of the CH2Cl2:MeOH solution, then elute the product with 100 mL of CH2Cl2:2 M NH3-MeOH, concentrate to a brown-orange oil, and purify via flash chromatography with a gradient of 0 to 5% methanol in dichloromethane. Pool the clean fractions and concentrate to provide 750 mg (67%) of the title compound as a yellow-brown solid after drying. MS (ES) m/z 293 (M+1).

reactant | 3-bromo-7-thiazol-2-yl-imidazo[1,2-a]pyridine | 3.82 mmol, 1.07 g | BrC1=CN=C2N1C=CC(=C2)C=2SC=CN2 | C10H6BrN3S
reactant | 4-aminophenylboronic acid hydrochloride | 4.58 mmol, 793 mg, 1.2 eq | Cl.NC1=CC=C(C=C1)B(O)O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 2 N, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | ˜40 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 1 mmol, 221 mg, 0.05 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(7-Thiazol-2-yl-imidazo[1,2-a]pyridin-3-yl)phenylamine | 750 mg, 67% | S1C(=NC=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)N | C16H12N4S
